US07781478B2
1-Ethyl-6-methoxy-1H-indole-3-carboxamide (120 mg, 0.55 mmol), Lawesson's reagent (240 mg, 0.6 mmol), and toluene (2 mL) are heated at 90° C. for 90 min. The reaction mixture is concentrated and purified by silica gel chromatography (EtOAc/CH2Cl2, 1/9) to yield 1-ethyl-6-methoxy-1H-indole-3-thiocarboxamide as a yellow solid (92 mg, 71%).

reactant | 1-Ethyl-6-methoxy-1H-indole-3-carboxamide | 0.55 mmol, 120 mg | C(C)N1C=C(C2=CC=C(C=C12)OC)C(=O)N | C12H14N2O2
reactant | Lawesson's reagent | 0.6 mmol, 240 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 1-ethyl-6-methoxy-1H-indole-3-thiocarboxamide | 92 mg, 71% | C(C)N1C=C(C2=CC=C(C=C12)OC)C(N)=S | C12H14N2OS
